US06117881
1-(4-Nitrophenyl)-2,3,4,9-tetrahydro-1H-β-carboline
This product was prepared using the same procedure as for intermediate 1 with tryptamine (2.0 g, 12.5 mmol), 4-nitrobenzaldehyde (1.88 g, 1 equiv.) and TFA (1.9 mL, 2 equiv.) to give the title compound (3.1 g, 86%) as a yellow powder.

reactant | tryptamine | 12.5 mmol, 2.0 g | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | 4-nitrobenzaldehyde | 1.88 g, 1 equiv. | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | TFA | 1.9 mL, 2 equiv. | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(4-Nitrophenyl)-2,3,4,9-tetrahydro-1H-β-carboline | 3.1 g, 86% | [N+](=O)([O-])C1=CC=C(C=C1)C1NCCC=2C3=CC=CC=C3NC12 | C17H15N3O2
